US06103910
To a mixture of 0.99 g (0.003 mol) (R)-2,5-dihydro-1H-pyrrole-2-carboxylic acid ethyl ester trifluoroacetate (1:1), 0.34 g (0.0015 mol) 1,2-phenylenedioxy-diacetic acid, 1.3 ml (0.012 mol) N-methylmorpholine, and 0.46 g (0.003 mol) 1-hydroxybenzotriazole hydrate in 80 ml dichloromethane were added 0.57 g (0.003 mol) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimid hydrochloride. After stirring at room temperature for 18 hours the mixture was extracted with 1 N HCl, water, 10% aqueous sodium bicarbonate and again water. Chromatography over silicagel with ethylacetate yielded 0.45 g (32%) (R)-1-[[2-[2-[(R)-2-ethylcarbonyl-2,5-dihydropyrrole- 1-yl]-2-oxo-ethoxyl]-phenoxylacetyl]-2,5-dihydropyrrole-2-carboxylic acid ethyl ester as colorless oil. ISP-

reactant | (R)-2,5-dihydro-1H-pyrrole-2-carboxylic acid ethyl ester trifluoroacetate | 0.003 mol, 0.99 g | FC(C(=O)O)(F)F.C(C)OC(=O)[C@@H]1NCC=C1
reactant | 1,2-phenylenedioxy-diacetic acid | 0.0015 mol, 0.34 g | C1(=C(C=CC=C1)OCC(=O)O)OCC(=O)O | C10H10O6
reactant | N-methylmorpholine | 0.012 mol, 1.3 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole hydrate | 0.003 mol, 0.46 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimid hydrochloride | 0.003 mol, 0.57 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | [2-[2-[(R)-2-ethylcarbonyl-2,5-dihydropyrrole- 1-yl]-2-oxo-ethoxyl]-phenoxylacetyl]-2,5-dihydropyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(NCC=C1)C(COC1=C(C=CC=C1)OCC(=O)N1[C@H](C=CC1)C(=O)CC)=O | C24H28N2O7
